US05998436
Synthesis of 4-bromo-2-(t-butylamino)-5-chloro-3,6-difluoropyridine
To 40 ml of acetonitrile was dissolved 10.2 g of 4-bromo-3-chloro-2,5,6-trifluoropyridine and 10.5 g of t-butylamine, and the mixture was heated under reflux for 1 hour and the solvent and the like were distilled off under reduced pressure. To the residue was added 80 ml of chloroform and the mixture was washed with 50 ml of distilled water. The chloroform layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 12.8 g of the title compound as reddish orange oil.

reactant | 4-bromo-3-chloro-2,5,6-trifluoropyridine | 10.2 g | BrC1=C(C(=NC(=C1F)F)F)Cl | C5BrClF3N
reactant | t-butylamine | 10.5 g | C(C)(C)(C)N | C4H11N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-bromo-2-(t-butylamino)-5-chloro-3,6-difluoropyridine | 12.8 g | BrC1=C(C(=NC(=C1Cl)F)NC(C)(C)C)F | C9H10BrClF2N2
